US08530667B2
To a suspension of 4-(4-ethyl-2-methyl-thiophen-3-yl)-10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione (73 mg, 0.25 mmol) in DCM (2 ml), at 0° C., is added bromine (26 μl, 0.5 mmol) in one portion, and the reaction allowed to warm to ambient and stirred at room temperature for 3 hours. The reaction is concentrated in vacuo, re-dissolved in methanol (10 ml), potassium carbonate (250 mg) added and the resulting suspension stirred at room temperature for a further 17 hours. The reaction is quenched by the addition if 2N aqueous HCl (10 ml) and extracted with DCM (2×10 ml). The combined organics extracts are dried, filtered, concentrated in vacuo, and purified by flash chromatography on silica gel to give 4-(5-bromo-4-ethyl-2-methyl-thiophen-3-yl)-10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione as a brown solid (43 mg).

reactant | 4-(4-ethyl-2-methyl-thiophen-3-yl)-10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione | 0.25 mmol, 73 mg | C(C)C=1C(=C(SC1)C)C1C(C2C3CCC(C2C1=O)O3)=O | C16H18O3S
reactant | bromine | 0.5 mmol, 26 μl | BrBr | Br2
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-(5-bromo-4-ethyl-2-methyl-thiophen-3-yl)-10-oxa-tricyclo[5.2.1.0*2,6*]decane-3,5-dione | 43 mg | BrC1=C(C(=C(S1)C)C1C(C2C3CCC(C2C1=O)O3)=O)CC | C16H17BrO3S
